US04061791
a. 3,3'-Dinitrobenzanilide
To a stirred solution of 13.81 g. (0.1 mole) of m-nitroaniline in 100 ml. of dry ethyl acetate is added 11.13 g. (0.11 mole) of triethylamine. To the solution is added a solution of 18.56 g. (0.1 mole) of m-nitrobenzoylchloride in 100 ml of ethyl acetate. The mixture is refluxed for 6.5 hours. The reaction mixture is allowed to stand at room temperature overnight. The precipitate is removed by filtration. The filtrate is evaporated to dryness in vacuo. The residue is recrystallized from absolute ethanol. There is obtained 5.79 g. of yellow needles that melt at 188°-189° .

reactant | m-nitroaniline | 0.1 mole | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | triethylamine | 0.11 mole | C(C)N(CC)CC | C6H15N
reactant | m-nitrobenzoylchloride | 0.1 mole | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 3,3'-Dinitrobenzanilide | [N+](=O)([O-])C=1C=C(C(=O)NC2=CC(=CC=C2)[N+](=O)[O-])C=CC1 | C13H9N3O5
